US05085689
19.3 g (0.11 mol) of 5-formyl-2-acetylcyclohexane-1,3-dione in 200 ml of distilled water were initially taken, and 14.7 g (0.13 mol) of hydroxylamine-O-sulfonic acid were added at room temperature. The mixture was then stirred for 17 hours at room temperature. The precipitate was filtered off under suction, washed with water and dried. 11.5 g (61% of theory) of 3,5-dioxo-4-acetylcyclohexanenitrile of melting point 66-69° C. were obtained.

reactant | 5-formyl-2-acetylcyclohexane-1,3-dione | 0.11 mol, 19.3 g | C(=O)C1CC(C(C(C1)=O)C(C)=O)=O | C9H10O4
reactant | hydroxylamine-O-sulfonic acid | 0.13 mol, 14.7 g | NOS(=O)(=O)O | H3NO4S
solvent | water | 200 ml | O | H2O
product | 3,5-dioxo-4-acetylcyclohexanenitrile | 11.5 g, 61% | O=C1CC(CC(C1C(C)=O)=O)C#N | C9H9NO3
